US04874775
N-(2,6-diethylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 3.9 g. portion of 3-(2,6-diethylphenylaminomethyl)pyridine was suspended in about 10 ml. of methanesulfonyl chloride, and the mixture stood at ambient temperature for 3 days. It was then diluted with water, and made basic to about pH 10 with aqueous sodium hydroxide. It was extracted twice with 15 ml. portions of ethyl acetate, and the combined organic layers were washed twice with 15 ml. portions of water, and dried. The organic solution was evaporated under vacuum to obtain 4.5 g. of oily product. It was dissolved in ethyl acetate and purified over a short silica gel column in ethyl acetate. The product-containing fractions were combined and evaporated to obtain 3.5 g. of impure product. It was dissolved in 10 ml. of dichloromethane, and to it were added 1.26 ml. of triethylamine and 0.7 ml. of methanesulfonyl chloride. The mixture was stirred at ambient temperature for 3 days, and was then filtered, and the filtrate was evaporated under vacuum. The residue was dissolved in chloroform and purified over a silica gel column, eluting with 19:1 chloroform:methanol. The product-containing fractions were combined and evaporated under vacuum to obtain 3.7 g. of product, which was still only about 60% pure.

reactant | 3-(2,6-diethylphenylaminomethyl)pyridine | C(C)C1=C(C(=CC=C1)CC)NCC=1C=NC=CC1 | C16H20N2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2,6-diethylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | C(C)C1=C(C(=CC=C1)CC)N(S(=O)(=O)C)CC=1C=NC=CC1 | C17H22N2O2S
